US08623889B2
To a solution of N-(7-(5-amino-2-methylphenyl)isoquinolin-3-yl)cyclopropanecarboxamide (53.8 mg, 0.144 mmol) in methylene chloride (2.0 mL, 31 mmol) was added pyridine (0.10 mL, 1.2 mmol) and 1-methyl-1H-pyrazole-4-carbonyl chloride (27.7 mg, 0.192 mmol). The reaction mixture was stirred at room temperature for 15 hours. The reaction mixture was then poured into 50 mL dichloromethane, washed with aqueous NaHCO3, dried over MgSO4, filtered, and evaporated in vacuo. The crude product was purified via reverse phase HPLC and lyophilized to yield 37.1 mg (61%) of N-(3-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-4-methylphenyl)-1-methyl-1H-pyrazole-4-carboxamide. LCMS (ESI): RT (min)=4.307, M+H=426.1, method=E; 1H NMR (400 MHz, DMSO-d6) δ 10.89 (s, 1H), 9.80 (s, 1H), 9.19 (s, 1H), 8.50 (s, 1H), 8.28 (s, 1H), 8.01 (d, J=4.9 Hz, 2H), 7.93 (d, J=8.6 Hz, 1H), 7.70 (dd, J=10.3, 4.6 Hz, 3H), 7.30 (d, J=8.0 Hz, 1H), 3.89 (s, 3H), 2.25 (s, 3H), 2.19-1.98 (m, 1H), 0.85 (m, 4H).

reactant | N-(7-(5-amino-2-methylphenyl)isoquinolin-3-yl)cyclopropanecarboxamide | 0.144 mmol, 53.8 mg | NC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1)C | C20H19N3O
reactant | pyridine | 1.2 mmol, 0.10 mL | N1=CC=CC=C1 | C5H5N
reactant | 1-methyl-1H-pyrazole-4-carbonyl chloride | 0.192 mmol, 27.7 mg | CN1N=CC(=C1)C(=O)Cl | C5H5ClN2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | methylene chloride | 31 mmol, 2.0 mL | C(Cl)Cl | CH2Cl2
product | N-(3-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-4-methylphenyl)-1-methyl-1H-pyrazole-4-carboxamide | 37.1 mg, 61% | C1(CC1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C=1C=C(C=CC1C)NC(=O)C=1C=NN(C1)C | C25H23N5O2
